US04252803
3-[2-[[(Phenylmethoxy)carbonyl]amino]ethyl]-1H-indole-5carboxylic acid
A vigorously stirred solution of 3-(2-amino-ethyl)-1H-indole-5-carboxylic acid (50 g) in aqueous sodium hydroxide (1 M, 450 ml) was cooled in an icebath and benzyl chloroformate (60 ml) and aqueous sodium hydroxide (1 M, 430 ml) were added simultaneously dropwise over a period of 1 hour so as to maintain the pH >10. The reaction mixture was stirred at ca 5° C. for 1.25 hour then a further portion of aqueous sodium hydroxide (1 M, 130 ml) was added. After a further 2 hour. the reaction mixture was extracted with ether (2×500 l ml) and the aqueous layer treated with sodium chloride (200 g), acidified to pH 1 with concentrated hydrochloric acid (80 ml) and extracted with ethyl acetate (3×500 ml). The combined extracts were washed with aqueous sodium chloride (10%, 2×500 ml) dried (MgSO4) and evaporated to dryness to give the title compound as a white solid (61.8 g) mp 186.5°-188°.

reactant | 3-(2-amino-ethyl)-1H-indole-5-carboxylic acid | 50 g | NCCC1=CNC2=CC=C(C=C12)C(=O)O | C11H12N2O2
reactant | benzyl chloroformate | 60 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | sodium hydroxide | 1 M, 450 ml | [OH-].[Na+]
solvent | sodium hydroxide | 1 M, 130 ml | [OH-].[Na+]
solvent | sodium hydroxide | 1 M, 430 ml | [OH-].[Na+]
product | 3-[2-[[(Phenylmethoxy)carbonyl]amino]ethyl]-1H-indole-5carboxylic acid | 61.8 g | C1(=CC=CC=C1)COC(=O)NCCC1=CNC2=CC=C(C=C12)C(=O)O | C19H18N2O4
